US06284785B1
(RS)-2-(3-Chloro-4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine
The title compound, off-white solid, m.p. 96° C. and MS: m/e=354.2 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-(3-chloro-4-fluoro-phenyl)-pyrrolidine and toluene-4-sulfonyl chloride.

reactant | (RS)-2-(3-chloro-4-fluoro-phenyl)-pyrrolidine | ClC=1C=C(C=CC1F)C1NCCC1 | C10H11ClFN
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-2-(3-Chloro-4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClC=1C=C(C=CC1F)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H17ClFNO2S
